US07728018B2
8-Benzyl-2,3,8-triaza-spiro[4.5]dec-2-ene
2.48 g of C-(4-Aminomethyl-1-benzyl-piperidin-4-yl)-methylamine was suspended in 40 mL H2O and 10 mL MeOH and cooled with an ice bath. Simultaneously, 6.7 mL 30% H2O2 (6 equiv.) and 15.2 mL 10% NaClO (2.4 equiv.) were added dropwise. The mixture was stirred at room temperature for 1 hour. The mixture was extracted 2 times with DCM, the combined organic layers were dried over Na2SO4, filtrated and concentrated to yield 2.20 g of a yellow oil which was used without further purification in the subsequent step.

reactant | C-(4-Aminomethyl-1-benzyl-piperidin-4-yl)-methylamine | 2.48 g | NCC1(CCN(CC1)CC1=CC=CC=C1)CN | C14H23N3
reactant | MeOH | 10 mL | CO | CH4O
reactant | H2O2 | 6.7 mL, 6 equiv. | OO | H2O2
reactant | NaClO | 15.2 mL, 2.4 equiv. | [O-]Cl.[Na+]
solvent | H2O | 40 mL | O | H2O
product | 8-Benzyl-2,3,8-triaza-spiro[4.5]dec-2-ene | 2.20 g | C(C1=CC=CC=C1)N1CCC2(CN=NC2)CC1 | C14H19N3
